US06635657B1
C. 2-Iodo-4-(methylsulfonyl)aniline
To a solution of iodine (20.8 g, 81.8 mmol) and silver sulfate (25.5 g, 81.8 mmol) in ethanol (1 L) was added 4-(methylsulfonyl)aniline (14 g, 81.8 mmol). After stirring overnight, the solution was filtered. The precipitate was then suspended in THF and stirred for 48 h, then filtered again and the filtrate was concentrated in vacuo to give 15.5 g (64%) of tan solid. The original filtrate was also concentrated in vacuo and then suspended in ethanol with stirring, then filtered and dried in vacuo to give another 7.92 g (33%) of tan solid.

reactant | iodine | 81.8 mmol, 20.8 g | II | I2
reactant | 4-(methylsulfonyl)aniline | 81.8 mmol, 14 g | CS(=O)(=O)C1=CC=C(N)C=C1 | C7H9NO2S
solvent | ethanol | 1 L | C(C)O | C2H6O
catalyst | silver sulfate | 81.8 mmol, 25.5 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 2-Iodo-4-(methylsulfonyl)aniline | 15.5 g, 64% | IC1=C(N)C=CC(=C1)S(=O)(=O)C | C7H8INO2S
